US05208240
Scheme A, Step g: 4-[[2-(1,1-Dimethylethoxy)-2-oxoethyl]oxy-alpha-ethyl-benzeneacetic acid
Suspend lithium hydride (1.01 g, 126.4 mmol) in hexamethylphosphoramide (50 mL) and treat with 1-propanethiol (11.5 mL, 126.4 mmol). Stir for 1.5 hours and add to a solution of 4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]oxy-alpha-ethyl-benzeneacetic acid, methyl ester (5.57 g, 18.06 mmol) in hexamethylphosphoramide (50 mL) under a nitrogen atmosphere. Stir for 20 hours and pour into ice cold 5% hydrochloric acid (500 mL). Extract into ethyl ether (4×300 mL), wash with water (500 mL) and dry (MgSO4). Evaporate the solvent in vacuo and purify by flash chromatography (5→10→20% isopropanol/hexane) to give the title compound (4.01 g).

reactant | lithium hydride | 126.4 mmol, 1.01 g | [H-].[Li+]
reactant | 1-propanethiol | 126.4 mmol, 11.5 mL | C(CC)S | C3H8S
reactant | [2-(1,1-dimethylethoxy)-2-oxoethyl]oxy-alpha-ethyl-benzeneacetic acid, methyl ester | 18.06 mmol, 5.57 g | CC(C)(OC(COC1=C(C=CC=C1)C(C(=O)OC)CC)=O)C | C17H24O5
solvent | hexamethylphosphoramide | 50 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | hexamethylphosphoramide | 50 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | [2-(1,1-Dimethylethoxy)-2-oxoethyl]oxy-alpha-ethyl-benzeneacetic acid | 4.01 g | CC(C)(OC(COC1=C(C=CC=C1)C(C(=O)O)CC)=O)C | C16H22O5
